US07320986B2
4-[6-(hydroxymethyl)-1,4-dihydroindeno[1,2-c]pyrazol-3-yl]benzamide
The desired product was prepared by replacing Example 1C and 4-carboxybenzene boronic acid with Example 19A and 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide in Example 1D. MS (DCI/NH3) m/z: 306.1 (M+H)+; 1H NMR (500 MHz, DMSO-d6) δ 3.90 (s, 2H), 4.57 (s, 2H), 7.32 (d, J=7.49 Hz, 1H), 7.54 (s, 1H), 7.61 (d, J=7.80 Hz, 1H), 7.89 (d, J=8.42 Hz, 2H), 8.00 (d, J=8.42 Hz, 2H).

reactant | 4-carboxybenzene boronic acid | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzamide | CC1(OB(OC1(C)C)C1=CC=C(C(=O)N)C=C1)C | C13H18BNO3
reactant | NH3 | N | H3N
product | 4-[6-(hydroxymethyl)-1,4-dihydroindeno[1,2-c]pyrazol-3-yl]benzamide | OCC=1C=C2CC3=C(NN=C3C3=CC=C(C(=O)N)C=C3)C2=CC1 | C18H15N3O2
